US07494992B2
(1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-5-[2-(acetyloxy)-1-methylethyl]-8a-hydroxy-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexa hydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To ((1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-[2-hydroxy-1-methylethyl]-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 140, 63.8 mg, 0.11 mmol) in dichloromethane (1.1 ml) was added acetic anhydride (22 mg, 2.0 □l, 0.22 mmol) and 4-dimethylaminopyridine (14.3 mg, 0.12 mmol) and the reaction mixture stirred at room temperature for 18 hours. The reaction mixture was diluted with dichloromethane (20 ml) and washed with aqueous citric acid solution, dried (MgSO4) and concentrated in vacuo to give a gum. The crude product was purified by chromatography on silica eluting with hexane:ethyl acetate (60:40). The pure fractions were combined and concentrated in vacuo, to give the title product as a white solid (42 mg, 61%).

reactant | (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-[2-hydroxy-1-methylethyl]-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.11 mmol, 63.8 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(CO)C)C)OC(C)=O)O | C29H39ClN2O8
reactant | acetic anhydride | 0.22 mmol, 22 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 1.1 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.12 mmol, 14.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-5-[2-(acetyloxy)-1-methylethyl]-8a-hydroxy-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexa hydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 42 mg, 61% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@H](CC[C@H]([C@]32O)C)C(COC(C)=O)C)C)OC(C)=O)O | C31H41ClN2O9
